US06323214B1
Preparation of 2-amino-3-(4-fluorobenzoyl)-6-(benzyloxycarbonyl)-4,5,6,7-tetrahydrothieno(2,3-c)pyridine: Compound 42
Using the procedures in Examples 7 and 8, substituting p-fluorobenzoyl acetonitrile for benzoyl acetonitrile, 2-amino-3-(4-fluorobenzoyl)-4,5,6,7-tetrahydrothieno(2,3 -c)pyridine was prepared. This compound was reacted with benzyloxycarbonyl chloride to yield the title compound as a solid (mp 90-92° C). 1H NMR (CDCl3) 1.96 (m, 2H); 3.45 (m, 2H); 4.45 (s, 2H); 5.15 (s, 2H); 6.71 (bs, 2H); 7.05-7.52 (m, 9H).

reactant | benzoyl acetonitrile | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | 2-amino-3-(4-fluorobenzoyl)-4,5,6,7-tetrahydrothieno(2,3 -c)pyridine | NC1=C(C2=C(CNCC2)S1)C(C1=CC=C(C=C1)F)=O | C14H13FN2OS
reactant | benzyloxycarbonyl chloride | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
product | 2-amino-3-(4-fluorobenzoyl)-6-(benzyloxycarbonyl)-4,5,6,7-tetrahydrothieno(2,3-c)pyridine | NC1=C(C2=C(CN(CC2)C(=O)OCC2=CC=CC=C2)S1)C(C1=CC=C(C=C1)F)=O | C22H19FN2O3S
